US07585885B2
3-Bromo-4-fluoro-5-methanesulfonyl-N-methyl-N-propyl-benzamide
Mix 3-bromo-4-fluoro-5-methanesulfonylbenzoic acid (1.6 g, 5.04 mmol), 1-(3-dimethylamino-propyl)-3-ethyl-carbodiimide hydrochloride (968 mg, 5.04 mmol) and 1-hydroxybenzotriazole (680 mg, 5.04 mmol) in DMF (20 mL) at room temperature for 20 min. Add methyl-propylamine (368 mg, 5.04 mmol) and triethylamine (520 mg, 15.1 mmol) and stir at room temperature for 1 h. Dilute with ethyl acetate, wash with 10% aqueous potassium carbonate, 0.1 N citric acid, 1 N lithium chloride and saturated aqueous sodium chloride, concentrate and purify (silica gel chromatography, eluting with 10:90 to 50:50 ethyl acetate:hexanes) to give the title compound as an oil.

reactant | 3-bromo-4-fluoro-5-methanesulfonylbenzoic acid | 5.04 mmol, 1.6 g | BrC=1C=C(C(=O)O)C=C(C1F)S(=O)(=O)C | C8H6BrFO4S
reactant | 1-(3-dimethylamino-propyl)-3-ethyl-carbodiimide hydrochloride | 5.04 mmol, 968 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 5.04 mmol, 680 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | methyl-propylamine | 5.04 mmol, 368 mg | CNCCC | C4H11N
reactant | triethylamine | 15.1 mmol, 520 mg | C(C)N(CC)CC | C6H15N
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-Bromo-4-fluoro-5-methanesulfonyl-N-methyl-N-propyl-benzamide | BrC=1C=C(C(=O)N(CCC)C)C=C(C1F)S(=O)(=O)C | C12H15BrFNO3S
